US04343811
2-Methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-6-yloxy]propanoic acid ethylester
In accordance with a procedure analogous to that of Example 10, the above compound was prepared from 2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-6-ol and 2-bromo-2-methyl-propanoic acid ethylester.

reactant | 2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-6-ol | CC=1N(C2=CC(=CC=C2C1C1=CC=NC=C1)O)CCC | C17H18N2O
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-Methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-6-yloxy]propanoic acid ethylester | C(C)OC(C(C)(OC1=CC=C2C(=C(N(C2=C1)CCC)C)C1=CC=NC=C1)C)=O | C23H28N2O3
